US04782057
2-(4-Aminophenyl)-9-chloro-4,4a,5,6-tetrahydrobenzo[h]cinnolin-3(2H)-one is added to the mixture of water and concentrated hydrochloric acid which is cooled on an ice bath and then an aqueous solution of sodium nitrite is added dropwise. The mixture is stirred under ice-cooling for 30 minutes and then neutralized with sodium carbonate. The solution is added dropwise with stirring to a solution of cuprous cyanide and potassium cyanide which is previously prepared. The mixture is stirred under ice-cooling for 30 minutes and allowed to stand overnight at room temperature. The precipitated crystals are collected by filtration to give 9-chloro-2-(4-cyanophenyl)-4,4a,5,6-tetrahydrobenzo[h]cinnolin-3(2H)-one.

reactant | 2-(4-Aminophenyl)-9-chloro-4,4a,5,6-tetrahydrobenzo[h]cinnolin-3(2H)-one | NC1=CC=C(C=C1)N1N=C2C3=C(CCC2CC1=O)C=CC(=C3)Cl | C18H16ClN3O
reactant | hydrochloric acid | Cl | ClH
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium cyanide | [C-]#N.[K+]
solvent | water | O | H2O
product | 9-chloro-2-(4-cyanophenyl)-4,4a,5,6-tetrahydrobenzo[h]cinnolin-3(2H)-one | ClC1=CC2=C(CCC3CC(N(N=C23)C2=CC=C(C=C2)C#N)=O)C=C1 | C19H14ClN3O
